US05364871
4N-Dioxanic hydrogen chloride (48.0 ml) was added dropwise to a solution of 4-(6-acetylaminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole (18.6 g) in methanol (50 ml) at ambient temperature for 5 minutes. After the mixture was stirred at the same temperature for 30 minutes. To the mixture was added a diisopropyl ether and the isolated precipitate was collected by filtration. The precipitate was recrystallized from a mixture of methanol and diisopropyl ether to give 4-(6-acetylaminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride (16.29 g).

reactant | hydrogen chloride | 48.0 ml | Cl | ClH
reactant | 4-(6-acetylaminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole | 18.6 g | C(C)(=O)NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N | C12H14N6OS
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 50 ml | CO | CH4O
product | 4-(6-acetylaminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole dihydrochloride | 16.29 g | Cl.Cl.C(C)(=O)NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N | InChI=1S/C12H14N6OS.2ClH/c1-7(19)15-5-8-3-2-4-9(16-8)10-6-20-12(17-10)18-11(13)14;;/h2-4,6H,5H2,1H3,(H,15,19)(H4,13,14,17,18);2*1H
